US03988448
To the solution of 2.5 g of 7,7-diphenyl-hexahydro-1,4-oxazepine in 5 ml of dimethylformamide, 1.5 g of anhydrous potassium carbonate are added while stirring, followed by the dropwise addition of the solution of 0.85 g of chloroacetonitrile in 2 ml of dimethylformamide and the suspension is stirred for 5 hours at room temperature. It is poured onto a mixture of ice and water, the aqueous phase extracted twice with 20 ml of diethyl ether each, the extract dried, filtered and evaporated. The residue is recrystallized from ethanol, to yield the 4-cyanomethyl-7,7-diphenyl-hexahydro-1,4-oxazepine melting at 119°-121° (its hydrochloride melts at 178°-180° with decomposition).

reactant | 7,7-diphenyl-hexahydro-1,4-oxazepine | 2.5 g | C1(=CC=CC=C1)C1(CCNCCO1)C1=CC=CC=C1 | C17H19NO
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetonitrile | 0.85 g | ClCC#N | C2H2ClN
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-cyanomethyl-7,7-diphenyl-hexahydro-1,4-oxazepine | C(#N)CN1CCOC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H20N2O
